US07626056B2
Potassium thioacetate (21.39 g, 187 mmol) was added to a stirred mixture of 1,4-dioxaspiro[4.5]dec-8-yl methanesulfonate (29.5 g, 125 mmol) in DMSO (31.2 ml) and the mixture was heated at 40° C. for 24 h. The mixture was cooled, brine was added and the mixture was extracted with ethyl acetate. The combined organic fractions were washed with brine, dried, and evaporated. The residue was purified by column chromatography on silica gel using a Biotage 65i cartridge, eluting with EtOAc/isohexane to give 1,4-dioxaspiro[4.5]dec-8-yl ethanethioate (17.5 g, 81 mmol, 64.8% yield) as a red oil.

reactant | Potassium thioacetate | 187 mmol, 21.39 g | C(C)(=S)[O-].[K+]
reactant | 1,4-dioxaspiro[4.5]dec-8-yl methanesulfonate | 125 mmol, 29.5 g | CS(=O)(=O)OC1CCC2(OCCO2)CC1 | C9H16O5S
solvent | DMSO | 31.2 ml | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | 1,4-dioxaspiro[4.5]dec-8-yl ethanethioate | 81 mmol, 17.5 g, 64.8% yield | C(C)(OC1CCC2(OCCO2)CC1)=S | C10H16O3S
